US05691384
Combine 1-(4-benzyloxyphenyl)-1-(4-(4-chlorobutyloxy) phenyl)-2-chloro-2-phenyl ethylene (0.1 g, 0.20 mmol), 5% palladium-on-carbon (30 mg), and ethyl acetate (1.5 mL). Treat with hydrogen at atmospheric pressure. After 1.5 hours, filter using a 0.45 micron membrane. Concentrate the filtrate in vacuo to give 1-(4-hydroxyphenyl)-1-(4-(4-chlorobutyloxy)phenyl)-2-chloro-2-phenyl ethylene.

reactant | 1-(4-benzyloxyphenyl)-1-(4-(4-chlorobutyloxy) phenyl)-2-chloro-2-phenyl ethylene | 0.20 mmol, 0.1 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=C(C1=CC=CC=C1)Cl)C1=CC=C(C=C1)OCCCCCl | C31H28Cl2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 30 mg | [Pd] | Pd
solvent | ethyl acetate | 1.5 mL | C(C)(=O)OCC | C4H8O2
product | 1-(4-hydroxyphenyl)-1-(4-(4-chlorobutyloxy)phenyl)-2-chloro-2-phenyl ethylene | OC1=CC=C(C=C1)C(=C(C1=CC=CC=C1)Cl)C1=CC=C(C=C1)OCCCCCl | C24H22Cl2O2
